US07728144B2
Biphenyl-2-ylcarbamic Acid 1-[2-(4-Formylbenzoylamino)ethyl]piperidin-4-yl Ester
A mixture of 4-carboxybenzaldehyde (0.95 g, 6.35 mmol) and HATU (3.02 g, 7.94 mmol) in 55 mL of DCM was stirred at room temperature for 1 hour and then biphenyl-2-ylcarbamic acid 1-(2-aminoethyl)piperidin-4-yl ester (3 g, 5.29 mmol; prepared as described in Preparation 7) and DIPEA (4.6 mL, 26.45 mmol) were added. The resulting mixture was stirred at room temperature for 2 hours and then diluted with 100 mL of DCM and washed with saturated sodium bicarbonate (150 mL) and brine (150 mL). The organic layer was dried over MgSO4, filtered and concentrated to provide 2.3 g of the title intermediate (92% yield), which was suitable for use without further purification.

reactant | 4-carboxybenzaldehyde | 6.35 mmol, 0.95 g | C(=O)(O)C1=CC=C(C=O)C=C1 | C8H6O3
reactant | HATU | 7.94 mmol, 3.02 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | biphenyl-2-ylcarbamic acid 1-(2-aminoethyl)piperidin-4-yl ester | 5.29 mmol, 3 g | NCCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O | C20H25N3O2
reactant | DIPEA | 26.45 mmol, 4.6 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 55 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | Biphenyl-2-ylcarbamic Acid 1-[2-(4-Formylbenzoylamino)ethyl]piperidin-4-yl Ester | 2.3 g, 92% yield | C(=O)C1=CC=C(C(=O)NCCN2CCC(CC2)OC(NC2=C(C=CC=C2)C2=CC=CC=C2)=O)C=C1 | C28H29N3O4
